US04115588
To 40 ml of freshly distilled thionyl chloride at 0° was added in portions over 15 minutes with stirring 3.86 g (0.02 mol) 2-benzoylamino-2-methyl-1-propanol. The solution was warmed to room temperature and heated under reflux for 2 hours. The thionyl chloride was removed under reduced pressure to afford a yellow oil which crystallized at 0° following the addition of anhydrous ether. The solid was triturated in anhydrous ether overnight and isolated by filtration under a nitrogen atmosphere. After drying in vacuo over calcium sulfate, 2.00 g (0.009 mol), 45%, 2-phenyl-4,4-dimethyl-1,3-oxazoline hydrochloride was obtained as a white solid, mp. 149°-151°; ir (KBr) 1640 (c=N) cm-1, pmr (D2O) δ 1.60 (s, 6H), 4.70 (s, 2H) and 7.3 - 8.2 (m, 5H) ppm.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-benzoylamino-2-methyl-1-propanol | 0.02 mol, 3.86 g | C(C1=CC=CC=C1)(=O)NC(CO)(C)C | C11H15NO2
product | 2-phenyl-4,4-dimethyl-1,3-oxazoline hydrochloride | Cl.C1(=CC=CC=C1)C=1OCC(N1)(C)C | InChI=1S/C11H13NO.ClH/c1-11(2)8-13-10(12-11)9-6-4-3-5-7-9;/h3-7H,8H2,1-2H3;1H
